US03946019
To a stirred suspension of 3-chloro-7-ethoxycarbonylmethoxyimino-7H-indolizino[5,6,7-ij]isoquinoline (0.356 g.) in ethanol (15 cc.) there is added N sodium hydroxide solution (1 cc.) followed by distilled water (35 cc.). After stirring for 1 hour at a temperature of about 20° C., a dark green solution is obtained which is neutralised by adding N hydrochloric acid (1 cc.). The resulting precipitate is filtered off, washed copiously with water and dried under reduced pressure. 3-Chloro-7-carboxymethoxyimino-7H-indolizino[5,6,7-ij]isoquinoline (0.28 g.), melting at 202° C. with decomposition, is thus obtained.

reactant | 3-chloro-7-ethoxycarbonylmethoxyimino-7H-indolizino[5,6,7-ij]isoquinoline | 0.356 g | ClC1=C2C=CN=C3C2=C(C=C1)N1C=CC=C1C3=NOCC(=O)OCC | C18H14ClN3O3
reactant | sodium hydroxide | 1 cc | [OH-].[Na+]
reactant | hydrochloric acid | 1 cc | Cl | ClH
solvent | ethanol | 15 cc | C(C)O | C2H6O
product | 3-Chloro-7-carboxymethoxyimino-7H-indolizino[5,6,7-ij]isoquinoline | 0.28 g | ClC1=C2C=CN=C3C2=C(C=C1)N1C=CC=C1C3=NOCC(=O)O | C16H10ClN3O3
